US04843068
Tert-butyl 4-[(1-methyl-5-phenoxypyrazol-4-yl)methyleneaminooxymethyl]benzoate (compound No. 174)
1.0 Gram (0.0049 mole) of 1-methyl-5-phenoxypyrazole-4-carbaldehyde and 1.1 g (0.0049 mole) of tert-butyl 4-aminooxymethylbenzoate were added to 20 ml of ethanol, and the resulting mixture was heated under reflux to carry out reaction. After completion of the reaction, ethanol was removed by evaporation, after which water was added to the residue and extraction was carried out with ethyl acetate. The ethyl acetate extract was washed with water and dried, and ethyl acetate was removed by evaporation to obtain an oily product. This oily product was column-chromatographed on silica gel to obtain 1.6 g of the desired compound.

reactant | 1-methyl-5-phenoxypyrazole-4-carbaldehyde | 0.0049 mole | CN1N=CC(=C1OC1=CC=CC=C1)C=O | C11H10N2O2
reactant | tert-butyl 4-aminooxymethylbenzoate | 0.0049 mole, 1.1 g | NOCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H17NO3
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Tert-butyl 4-[(1-methyl-5-phenoxypyrazol-4-yl)methyleneaminooxymethyl]benzoate | 1.6 g, Yield 80% | CN1N=CC(=C1OC1=CC=CC=C1)C=NOCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C23H25N3O4
